US06300352B1
a) 5-Bromo-2-(2-morpholin-4-yl-ethylamino)benzonitrile
5-Bromo-2-fluorobenzonitrile (1.0 g) and 4-(2-aminoethyl)morpholine (0.65 g) were mixed together in acetonitrile (5 ml) at 70° C. for 4 hours, cooled and poured into a solution of aqueous sodium hydrogen carbonate and was extracted into ethyl acetate, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by chromatography on silica gel eluting with 2.5% methanol in dichloromethane containing 1% triethylamine to afford the sub-titled compound as an oil (0.77 g).

reactant | 5-Bromo-2-fluorobenzonitrile | 1.0 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | 4-(2-aminoethyl)morpholine | 0.65 g | NCCN1CCOCC1 | C6H14N2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 5-Bromo-2-(2-morpholin-4-yl-ethylamino)benzonitrile | 0.77 g | BrC=1C=CC(=C(C#N)C1)NCCN1CCOCC1 | C13H16BrN3O
